US05348955
Step A: N-(3-Methylphenyl)-N-phenylcarbamoyl chloride
According to the procedure of Example 15, Step A, 3.66 g (20 mmole) of 3-methyldiphenylamine, 20 mL (38.6 mmole) of 1.93M phosgene is toluene solution, and 20 mL of toluene gave 4.9 g (100%) of a dark solid.

reactant | 3-methyldiphenylamine | 20 mmole, 3.66 g | CC1=CC(=CC=C1)NC2=CC=CC=C2 | C13H13N
reactant | phosgene | 38.6 mmole, 1.93M, 20 mL | C(=O)(Cl)Cl | CCl2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | N-(3-Methylphenyl)-N-phenylcarbamoyl chloride | 4.9 g, 100% | CC=1C=C(C=CC1)N(C(=O)Cl)C1=CC=CC=C1 | C14H12ClNO
